Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with a history of
bipolar, HTN, hypothyroidism, ETOH abuse who presented to the ED
with a transient episode of diplopia and vertigo per her report,
concern for episode of AMS and somnolence per report of others,
who continues to be off her neurological baseline.   

Patient recently presented to ___ facility on ___ 
for
EtOH detox, but has been refusing withdrawal protocol per ED.
Report from ___ clinician that patient has been
intermittently confused. She was scheduled to be discharged ___
but was "suddenly able to walk or stand". 

Patient reports that she woke up in her usual state of health
today. She was excited to be leaving the ___ facility, and she
went to get her bin of things. When she was picking up the bin,
she turned her head and experienced the sudden onset of room
spinning and diplopia, which she describes as images one on top
of the other vertically. The diplopia lasted for about 15
minutes, but the room spinning continued for about an hour and a
half, and resolved while she was in the ED. She reports that she
continues to feel "unsteady" but is no longer experiencing
diplopia or vertigo. She has had diplopia in the past which she
says was similar. The most recent episode was about 2 weeks ago
and lasted for 15 minutes. Other than that episode, she denies
any previous diplopia. She does not recall falling, though per
report she did fall and she has a bruise on her chin. Per report
patient may not have been taking medication for CIWA, though her
mother reports that the nurse at ___ said she was "scheduled"
for Ativan, it is unclear if she was receiving. 

Spoke with patient's mom, ___ (___). Mom reports that
___ has been more depressed over the past few weeks. She had
been having headaches for several weeks, she was extremely
depressed, had called her boyfriend and said "I can't live like
this anymore." and mom interpreted this as SI with intent and
thus wanted her to be hospitalized in a psychiatric institution.
___ called her on ___ and mom came over to find her
crying, having written a suicide note to her boyfriend,
surrounded by alcohol. Mom brought ___ to the ED at ___ on
___ in an effort to obtain psychiatric placement. At that
time, she was complaining of right ear pain and pain at the top
of her head. She hasn't been eating, and drinking multiple nips
per day of 100 proof vodka. ___ did not want to wait long at
___, and only stayed a few hours. Mom was able to have her
admitted to ___ in ___ on ___.
There, mom was told that she was put back on her medications. On
the day prior to discharge, mom visited and at that time was
concerned for over mediation because ___ had a flat affect,
her speech was slurred, she was having trouble walking. The 
nurse
who was caring for her said that ___ was getting a "small
dose" of Ativan three times per day, which they felt accounted
for these symptoms. Indication for Ativan unclear. On the day of
presentation, Mom had a reasonable conversation with ___ at
5:20 AM, they talked about what ___ would do today, how she
wanted to sleep in her own bed. The next thing mom heard, she
received a call from ___ saying that ___ had "collapsed" 
with
no further details. She is concerned because ___ is not at
her baseline mental status, and it is not clearly medication 
side
effect because ___ was restarted on her home medications at
___ (though how long she was off these medications for is
unclear). ___ has told mom about both diplopia and vertigo
for several months (notably ___ denied having more than 1
other episode of diplopia), she also describes a deck of cards
flashing in her head that causes pain.

Spoke with nurse manager from ___, who did not witness 
the
event (no one was available who did witness) but per notes that
she had, ___ was found in the morning lying in bed, mildly
disoriented and hypertensive, concerning for delirium tremors.
She was seen by the ___ alert, confused, 151/110, HR 110. She 
was
given clonidine. The nurse mentioned she couldn't walk, 
requiring
two person assist and they decided to transfer to the ED. There
was no mention of any fall. She reviewed the medications ___
was receiving, and she was on alcohol protocol day 4, and had
been receiving Ativan during her stay at ___.   

On neurologic review of systems, the patient denies headache at
the moment, lightheadedness, or confusion. Denies difficulty 
with
producing or comprehending speech. Denies loss of vision, 
blurred
vision, tinnitus, hearing difficulty, dysarthria, or dysphagia.
Denies focal muscle weakness, numbness, parasthesia. Denies loss
of sensation. Denies bowel or bladder incontinence or retention.
She denies any seizures (but mom 

___ recent illness, weight loss, chest pain. Did vomit a few
weeks ago with dizziness. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
bipolar
HTN
hypothyroidism
ETOH abuse  
 
Social History:
___
Family History:
Paternal grandfather with a brain aneurysm, died at ___. No other
family history of seizure or stroke.  
 
Physical Exam:
Admission PHYSICAL EXAMINATION
 Vitals: T: 96.3 HR 81  BP 130/83 RR 16 SaO2 96% RA 
 General: Awake, flat affect, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, dry mucous membranes, 
no
lesions noted in oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. Left breast abscess covered by gauze. 
 Extremities: No ___ edema.
 Skin: large ecchymosis on chin 

Neurologic:
NIHSS 0 ___ 1700
-Mental Status: Alert, oriented to self, ___, ___. Unable to state the city. Sleepy during exam,
requiring frequent redirection as she kept attempting to lie 
back
down in bed. Very slowed responses. With frequent prompting, was
able to relay history. Able to name ___ backward with 1 error
(switched ___ and ___. Language is fluent with intact
repetition and comprehension. Normal prosody. Called a feather a
flutter initially but then corrected herself. Pt was able to 
name
both high and low frequency objects.  Able to read without
difficulty. Speech was mildly dysarthric. Able to follow both
midline and appendicular commands. Pt was able to register 3
objects and recall ___ at 5 minutes. She was able to demonstrate
brushing her teeth and hammering a nail. 

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI full, with 14
beats of nystagmus to the left, and 5 beats to the right.
Breakdown of smooth pursuits. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
 V: Facial sensation intact to light touch and pinprick V1-V3
bilaterally.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline with full excursions
bilaterally.

___: did induce symptoms of vertigo with head turn to
the left but no rotatory nystagmus induced. HINTS: No skew, no
clear corrective saccade, nystagmus as above

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Postural tremor with arms outstretched. 1 beat of
asterixis noted. Confrontational motor testing required frequent
redirection. 
  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
   [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
L   5     5     5     5     5    5     5     5     5    5 
R   5     5     5     5     5    5     5     5     5    5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense (10 seconds bilaterally) throughout.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2+ 2+   2+   2+  2
 R  2+ 2+   2+   2+  2
Pec jerks bilaterally. Suprapatellars but no crossed adductors
bilaterally. Toes weakly down bilaterally. No clonus.

-Coordination: Pass pointing on mirror testing L>R. Mild
intention tremor, no dysdiadochokinesia noted. No dysmetria FNF
bilaterally.

-Gait: Able to stand without assistance. With eye closure, she
bends forward at the waist and says she is going to fall over.
Takes a few unsteady steps.

Discharge Physical Exam: 
VITALS: 24 HR Data (last updated ___ @ 342)
    Temp: 97.7 (Tm 98.5), BP: 106/70 (93-120/62-82), HR: 82 
(69-96), RR: 18 (___), O2 sat: 98% (93-100), O2 delivery: RA  

NEURO
-Mental Status: Alert, oriented to self and date. Was
able to relay history, though inconsistent. Language is fluent 
with intact repetition and comprehension. Normal prosody. Able 
to follow both midline and appendicular commands.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI full, no 
nystagmus. Smooth pursuits.
 V: Facial sensation intact to light touch
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline with full excursions 
bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. Postural tremor with arms outstretched. No 
asterixis noted.
  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
   [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
L   5     5     5     5     5    5     5     5     5    5 
R   5     5     5     5     5    5     5     5     5    5

-Sensory: No deficits to light touch. Proprioception intact in 
UE and ___ bilaterally. 

-DTRs: deferred

-___: No dysmetria FNF bilaterally. 

-Gait: Strange wobbling forwards and backwards with eyes closed. 
Gait is very wide-based. Appears like she may fall but she does 
not fall. Able to walk to restroom without assistance. Walks 
better when not observed. 
 
Pertinent Results:
___ 02:41PM BLOOD WBC-4.1 RBC-3.32* Hgb-10.4* Hct-32.3* 
MCV-97 MCH-31.3 MCHC-32.2 RDW-15.5 RDWSD-54.3* Plt Ct-89*
___ 05:20AM BLOOD WBC-3.4* RBC-3.07* Hgb-9.4* Hct-30.5* 
MCV-99* MCH-30.6 MCHC-30.8* RDW-15.9* RDWSD-57.4* Plt Ct-86*
___ 05:20AM BLOOD WBC-2.9* RBC-2.73* Hgb-8.2* Hct-27.1* 
MCV-99* MCH-30.0 MCHC-30.3* RDW-15.9* RDWSD-56.6* Plt Ct-88*
___ 02:41PM BLOOD Neuts-55.5 ___ Monos-6.9 Eos-1.7 
Baso-0.5 Im ___ AbsNeut-2.26 AbsLymp-1.42 AbsMono-0.28 
AbsEos-0.07 AbsBaso-0.02
___ 05:20AM BLOOD ___ PTT-31.3 ___
___ 05:20AM BLOOD Glucose-94 UreaN-7 Creat-0.8 Na-136 K-4.3 
Cl-101 HCO3-24 AnGap-11
___ 02:41PM BLOOD ALT-230* AST-255* AlkPhos-154* 
TotBili-0.7
___ 05:20AM BLOOD ALT-186* AST-185* AlkPhos-122* 
TotBili-0.6
___ 05:20AM BLOOD ALT-143* AST-117* LD(LDH)-317* 
AlkPhos-129* TotBili-0.4
___ 05:20AM BLOOD Calcium-8.8 Phos-4.2 Mg-1.9 Cholest-188
___ 05:20AM BLOOD Albumin-3.5 Calcium-8.2* Phos-3.3 Mg-1.9
___ 09:53AM BLOOD VitB12-558 Folate->20
___ 05:20AM BLOOD %HbA1c-4.8 eAG-91
___ 05:20AM BLOOD Triglyc-167* HDL-44 CHOL/HD-4.3 
LDLcalc-111
___ 04:50PM BLOOD Ammonia-41
___ 05:20AM BLOOD TSH-51*
___ 09:53AM BLOOD Free T4-1.1
___ 05:20AM BLOOD Free T4-0.7*
___ 09:53AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG 
IgM HAV-NEG
___ 09:53AM BLOOD AMA-NEGATIVE Smooth-POSITIVE A 
ANCA-NEGATIVE B
___ 02:41PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:53AM BLOOD HCV Ab-POS*
___ 02:47PM BLOOD Lactate-1.4

CTA Head/neck - ___: 
IMPRESSION:
 
 
1. Dental amalgam streak artifact limits study.
2. No evidence of acute infarct or intracranial hemorrhage.  
Please note MRI
of the brain is more sensitive for the detection of acute 
infarct.
3. Question nonocclusive atherosclerotic narrowing of distal 
left V4 segment
versus artifact.
4. Otherwise, patent circle of ___ without definite evidence 
of
stenosis,occlusion,or aneurysm.
5. Patent bilateral cervical carotid and vertebral arteries 
without definite
evidence of stenosis, occlusion, or dissection.
6. Limited imaging of cervical spine demonstrates multilevel 
cervical
spondylosis with at least mild vertebral canal narrowing at 
C5-6.
7. Enlarged left supraclavicular lymph nodes with additional 
subcentimeter
nonspecific scattered subcentimeter nonspecific lymph nodes as 
described,
which may be reactive.
8. Nonspecific induration of left pre zygomatic soft tissues.  
Plaque,
question nonspecific induration of left supraclavicular soft 
tissues versus
vascularity.  If findings represent induration, please note that 
cellulitis is
not excluded on the basis of this examination.

MRI brain ___: FINDINGS: 
 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift
or infarction.   The ventricles and sulci are normal in caliber 
and
configuration.  No visualized abnormalities at the orbits, 
brainstem,
cerebellum, mastoids, inner ear on this noncontrast scan.
 
Preserved vascular flow voids.  Clear paranasal sinuses, 
mastoids..  Severe
atrophy or surgically absent left parotid gland.
 
IMPRESSION: 
 
No infarct.

RUQ US ___: FINDINGS: 
 
LIVER: The hepatic parenchyma appears within normal limits.  The 
contour of
the liver is smooth.  There is no focal liver mass.  The main 
portal vein is patent with hepatopetal flow.  There is no 
ascites.
 
BILE DUCTS: There is no intrahepatic biliary dilation.
  CHD: 2 mm
 
GALLBLADDER: Trace gallbladder sludge without gallbladder wall 
thickening or pericholecystic fluid.
 
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, without masses or pancreatic ductal dilation, 
with portions of the pancreatic tail obscured by overlying bowel 
gas.
 
SPLEEN: Normal echogenicity.
  Spleen length: 10.8 cm
 
KIDNEYS: Normal cortical echogenicity and corticomedullary 
differentiation is seen bilaterally.  There is no evidence of 
masses, stones, or hydronephrosis in the kidneys.
  Right kidney: 10.7 cm
  Left kidney: 10.9 cm
 
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal limits.
 
IMPRESSION: 
 
Trace gallbladder sludge, without evidence of acute 
cholecystitis.  Otherwise normal abdominal ultrasound.
 
Brief Hospital Course:
___ is a ___ year old woman with a history of 
bipolar, HTN, hypothyroidism, ETOH abuse who presented to the ED 
with a transient episode of diplopia and vertigo per her report, 
concern for episode of AMS and somnolence per report of others. 
Neurological exam notable for monocular diplopia, intentional 
tremor, and unsteady gait. Laboratory findings notable for 
pancytopenia, elevated LFTs, and elevated TSH levels.

#Vertigo
#Orthostatic hypotension - per mom, patient ___ eating and 
drink for weeks due to depression. 
- SBP down to ___ upon sitting and orthostatic
- required IV hydration. 
- Orthostatic vital signs returned to normal

#Monocular diplopia 
- ophthalmology consulted and did not find any acute 
abnormalities 

#Bipolar disorder
- Psychiatry consulted. Patient was being discharged from 
voluntary admission to ___ on day of transfer. 
- Psych recommended that patient continue her home medication 
until she follows up with her outpatient provider. 
- continued wellbutrin SR 150 mg daily, lamotrigine 150 mg 
daily, oxycarbazepine 600 mg daily
- 

#Hypothyroidism - ___ 51
- levothyroxine continued at 250 mcg 5 days a week, 125 mcg 2 
days a week. 
- TSH likely due to non-adherence
- needs f/u with endocrinologist

#Transaminitis - likely due to alcohol and hepatitis C
- downtrending from 200s to 100s. 
- RUQ US showed sludge in gallbladder but no other abnormalities 
or cholecystitis. 

#Hepatitis C antibody positive
- awaiting confirmatory HCV RNA

#Hypertension 
- continued home lisinopril 10 mg daily

Transitional Issues: 
=============================
[]f/u HCV RNA confirmatory test
[]repeat LFTs
[]f/u with PCP for hepatitis ___ evaluation and treatment
[]f/u with endocrinology and PCP for repeat TSH in ___ weeks
[]f/u with psychiatry within ___ weeks of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 150 mg PO DAILY 
2. BuPROPion (Sustained Release) 150 mg PO DAILY 
3. OXcarbazepine 600 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Levothyroxine Sodium 125 mcg PO DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO DAILY  
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*5 
3.  BuPROPion (Sustained Release) 150 mg PO DAILY  
4.  LamoTRIgine 150 mg PO DAILY  
5.  Levothyroxine Sodium 125 mcg PO DAILY 
2 tabs daily 5 days a week. 1 tab only on ___ and ___.  
 
6.  Lisinopril 10 mg PO DAILY  
7.  OXcarbazepine 600 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Orthostatic hypotension

Secondary diagnoses: 
Hypothyroidism
Alcohol abuse
Bipolar disorder
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ as a 
transfer from ___ due to a transient episode of vertigo 
and double vision. 

You had an MRI scan which did not show any stroke. 
You were found to have orthostatic hypotension when you sat up 
or stood up. You needed IV fluids and your blood pressure 
improved. 

You were found to have Hepatitis C antibody positive. We will 
contact your PCP with confirmatory test results. Please follow 
up with your PCP for further evaluation and treatment. 

Your Thyroid Stimulating Hormone was found to be very high. This 
is probably because you did not take your thyroid medication. 

Take your medications as prescribed. We confirmed your home 
medications with your pharmacy. Continue the same medications 
until you see your doctors. 
Start taking Thiamine daily. It is also available over the 
counter if insurance does not cover it. 
Consider taking a Vitamin B complex supplement. 

Please follow up with your PCP (Dr. ___ within ___ weeks 
of discharge. 

Please follow up with your endocrinologist (Dr. ___ within 
___ weeks of discharge. 

Please follow up with your psychiatrist (Dr. ___ within 
___ weeks of discharge. 

Please follow up with neurology if needed. You can call 
___ to make an appointment as neeeded. 

Thank you for the opportunity to participate in your care. 

Sincerely, 

Your ___ Neurology team
 
Followup Instructions:
___